US04605655
γ-Chloro-p-fluorobutyrophenone Ethylene Ketal (III)
A solution of γ-chloro-p-fluorobutyrophenone (50 g, 0.25 mole, commercially available); ethylene glycol (50 mL); p-toluene sulfonic acid (0.1 g) in 300 mL benzene is refluxed for 18 hrs with water of reaction being removed by means of a Dean Stark water trap. Upon cooling to room temperature, the reaction mixture is washed with dilute sodium bicarbonate, dried (MgSO4), filtered and the benzene removed by concentration in vacuo. The residual oil was distilled to give 57.7 g (93%) of product, b.p. 106-112/0.01 Torr.

reactant | γ-chloro-p-fluorobutyrophenone | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | ethylene glycol | 50 mL | C(CO)O | C2H6O2
reactant | p-toluene sulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
product | γ-Chloro-p-fluorobutyrophenone Ethylene Ketal | 57.7 g, 93% | C1COC(CCCCl)(C2=CC=C(C=C2)F)O1 | C12H14ClFO2
